US07714168B2
To a solution of 5.0 g of 3,4,5-trifluorobenzonitrile and 4.5 g of benzyl alcohol in 25 ml of DMF was added 1.5 g of 60% sodium hydride (oily) at 0° C. The mixture was stirred at room temperature for 4 hours. Then, dilute hydrochloric acid was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 7.0 g of 4-benzyloxy-3,5-difluorobenzonitrile represented by the formula:

reactant | 3,4,5-trifluorobenzonitrile | 5.0 g | FC=1C=C(C#N)C=C(C1F)F | C7H2F3N
reactant | benzyl alcohol | 4.5 g | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydride | 1.5 g | [H-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 4-benzyloxy-3,5-difluorobenzonitrile | 7.0 g | C(C1=CC=CC=C1)OC1=C(C=C(C#N)C=C1F)F | C14H9F2NO
